US07728000B2
A solution of 11-chloro-5-methyl-5H-indolo[3,2-b]quinoline (cf. Bierer et al., J. Med. Chem. 1998, vol. 41, pp. 2754) (61 mg, 0.23 mmol) and [[3-[(3-amino-propyl)methylamino]propyl]carbamic acid tert-butyl ester previously prepared (Spicer at el., Bioorg. Med. Chem. 2002, vol. 10, p. 19) (84_l, 0.34 mmol) in 2-ethoxyethanol (10 ml) was heated at 120° C. for 10 min. Removal of the solvent and purification by chromatography on alumina (CHCl3: MeOH 2%) yielded [3-[methyl-[3-(5-methyl-5H-indolo[3,2-b]quinolin-11-yl-amino)propyl]-amino]propyl]carbamic acid tert-butyl ester (49 mg, 490%) as a foam. 1H NMR [CDCl3—, ppm]: 8.16 (d, J=8.5 Hz, 1H), 7.81 (m, 4H), 7.55-7.48 (m, 2H), 7.21 (m, 1H), 4.51 (s, 3H, NCH3), 4.27 (m, 2H, CH2NO), 3.12 (m, 2H, CH2NHBOC), 2.76 (m, 2H, CH2N(CH3)), 2.63 (m, 2H, CH2N(CH3)), 2.39 (s, 3H, N(CH3)), 2.34 (m, 2H, CH2CN(CH3)), 1.73 (m, 2H, CH2CN(CH3)), 1.37 (s, 9H, C(CH3)3).

reactant | 11-chloro-5-methyl-5H-indolo[3,2-b]quinoline | ClC1=C2C(N(C3=CC=CC=C13)C)=C1C=CC=CC1=N2 | C16H11ClN2
reactant | [3-[(3-amino-propyl)methylamino]propyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C)CCCN)=O | C12H27N3O2
solvent | 2-ethoxyethanol | 10 ml | C(C)OCCO | C4H10O2
product | [3-[methyl-[3-(5-methyl-5H-indolo[3,2-b]quinolin-11-yl-amino)propyl]-amino]propyl]carbamic acid tert-butyl ester | 49 mg, 490% | C(C)(C)(C)OC(NCCCN(CCCNC1=C2C(N(C3=CC=CC=C13)C)=C1C=CC=CC1=N2)C)=O | C28H37N5O2
